US06001997
(a) (RS)-2-Chloroacetyltetrahydrofuran
Oxalyl chloride (5.2 ml, 60 mmol) and DMF (1 drop) were added to (RS)-2-tetrahydrofuroic acid (W. E. Kaufmann and R. Adams, J.Amer.Chem.Soc., 1923, 45, 3029) (4.64 g, 40 mmol) in dichloromethane (25 ml). The mixture was stirred 1 h, evaporated in vacuo, dichloromethane added and reevaporated to give 2-tetrahydrofuroyl chloride, νmax (CH2Cl2) 1795 cm-1. 2-Tetrahydrofuroyl chloride in ether (25 ml) and dichloromethane (10 ml) was added dropwise to an ice bath cooled solution of diazomethane (ca 80 mmol) in ether (150 ml). The reaction mixture was stirred 0.25 h then a stream of hydrogen chloride gas passed into the solution for ca 2 minutes then stirred a further 0.25 h, washed with saturated brine, dried, concentrated and flash chromatographed on silica gel eluting with 5,7.5 and 10% ethyl acetate in hexane to provide the title compound (2.46 g, 41%); (Found: M+, 148.0279. C6H9ClO2 requires M, 148.0291); νmax (CH2Cl2) 1739, 1395, 1071 and 936 cm-1 ; δH (CDCl3, 250 MHz) 1.8-2.4 (4 H, m) and 3.9-4.6 (5 H, m).

reactant | 2-Tetrahydrofuroyl chloride | O1C(CCC1)C(=O)Cl | C5H7ClO2
reactant | diazomethane | ca 80 mmol | [N+](=[N-])=C | CH2N2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ether | 150 ml | CCOCC | C4H10O
product | (RS)-2-Chloroacetyltetrahydrofuran | 2.46 g, 41% | ClCC(=O)C1OCCC1 | C6H9ClO2
